US08124786B2
A mixture of 0.221 g (1.16 mmol) of copper iodide, 3.21 g (23.22 mmol) of potash and 2.189 g of 5-fluoro-1,3-dimethyl-1H-pyrazole-4-carboxamide is admixed under argon with 330 mg (2.322 mmol) of N,N′-dimethyl-1,2-cyclohexanediamine, 2.8 g (11.6 mmol) of 1-bromo-2-(1,3-dimethylbutyl)benzene and 30 ml of toluene. After boiling under reflux for one day, the mixture is poured onto water and 10 ml of a 5% EDTA solution. Subsequently, the mixture is extracted three times with ethyl acetate and concentrated by evaporation under reduced pressure. The oily residue is dissolved in toluene and stirred into n-hexane. After the precipitated crystals have been filtered off with suction, 3.3 g (89% of the theoretical yield) of N-[2-(1,3-dimethylbutyl)phenyl]-5-fluoro-1,3-dimethyl-1H-pyrazole-4-carboxamide are obtained with a purity (HPLC) of 99%.

reactant | potash | 23.22 mmol, 3.21 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 5-fluoro-1,3-dimethyl-1H-pyrazole-4-carboxamide | 2.189 g | FC1=C(C(=NN1C)C)C(=O)N | C6H8FN3O
reactant | N,N′-dimethyl-1,2-cyclohexanediamine | 2.322 mmol, 330 mg | CNC1C(CCCC1)NC | C8H18N2
reactant | 1-bromo-2-(1,3-dimethylbutyl)benzene | 11.6 mmol, 2.8 g | BrC1=C(C=CC=C1)C(CC(C)C)C | C12H17Br
reactant | EDTA | C(CN(CC(=O)O)CC(=O)O)N(CC(=O)O)CC(=O)O | C10H16N2O8
catalyst | copper iodide | 1.16 mmol, 0.221 g | [Cu](I)I
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | N-[2-(1,3-dimethylbutyl)phenyl]-5-fluoro-1,3-dimethyl-1H-pyrazole-4-carboxamide | CC(CC(C)C)C1=C(C=CC=C1)NC(=O)C=1C(=NN(C1F)C)C | C18H24FN3O
